US04816562
Into 538 ml of 2N HCl/AcOH was dissolved 79.8 g (0.13 mole) of BOC-Phe-Arg-CHA.HCl. After reacting it at room temperature for one hour, the deposited matter was collected by filtration, washed with AcOH and ether and dried to obtain 41.8 g (58.7%) of H-Phe-Arg-CHA.2HCl.

reactant | HCl AcOH | 2N, 538 ml | Cl.CC(=O)O
reactant | BOC-Phe-Arg | 0.13 mole, 79.8 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C | C20H31N5O5
reactant | HCl | Cl | ClH
product | H-Phe-Arg | 41.8 g, 58.7% | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C15H23N5O3
